US09422271B2
A mixture of Pd(dppf)Cl2.CH2Cl2 (65.3 mg, 0.08 mmol, 0.1 equiv.), N-tert-butyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide (542 g, 1.60 mmol, 2.0 equiv.), 2-Bromo-N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-((trimethyl silyl)ethynyl) pyrimidin-4-amine (300 mg, 0.80 mmol, 1.0 equiv.) and saturated aq Na2CO3 (10 mL) in dioxane (30 mL) was heated to 90° C. for 1 h under nitrogen atmosphere. The reaction mixture was cooled to room temperature and extracted with THF. The combined layers were concentrated and the residue was purified by silica gel chromatography (EtOAc/Petroleum ether from 10:1 to 1:1) to afford compound N-tert-butyl-3-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-5-ethynylpyrimidin-2-yl)benzenesulfonamide (80 mg, 23%). LC-MS (m/z)=437.1 [M+H]+.

reactant | CH2Cl2 | 0.08 mmol, 65.3 mg, 0.1 equiv. | C(Cl)Cl | CH2Cl2
reactant | N-tert-butyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide | 1.60 mmol, 542 g, 2.0 equiv. | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C16H26BNO4S
reactant | 2-Bromo-N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-((trimethyl silyl)ethynyl) pyrimidin-4-amine | 0.80 mmol, 300 mg, 1.0 equiv. | BrC1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)C#C[Si](C)(C)C | C15H18BrN5Si
reactant | Na2CO3 | 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-tert-butyl-3-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-5-ethynylpyrimidin-2-yl)benzenesulfonamide | 80 mg, 23% | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=NC=C(C(=N1)NC1=CC(=NN1)C1CC1)C#C | C22H24N6O2S
